US06610692B1
Step A: 5-Azidomethyl-1,2,3-benzotriazole
To a solution of 5-chloromethyl-1,2,3-benzotriazole (2.2 g, 12.2 mmol, Katritzky et al. Synth. Commun. 1993, 23, 2019) dissolved in DMF (25 mL) was added sodium azide (2.4 g, 36.5 mmol). The resulting mixture was stirred under Ar for 16 h and the precipitated product was filtered and air dried to afford the title compound:

reactant | 5-chloromethyl-1,2,3-benzotriazole | 12.2 mmol, 2.2 g | ClCC1=CC2=C(NN=N2)C=C1 | C7H6ClN3
reactant | sodium azide | 36.5 mmol, 2.4 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 5-Azidomethyl-1,2,3-benzotriazole | N(=[N+]=[N-])CC1=CC2=C(NN=N2)C=C1 | C7H6N6
